US05134147
1-(Iodomethyl)benzocyclobutene
6 g of benzocyclobuten-1-ylmethyl para-toluenesulfonate (prepared according to the process described in J.A.C.S., (1975), 154, p. 347) are mixed with 6.2 g of sodium iodide in 85 ml of acetone. The reaction medium is brought to reflux for 8 hours, then introduced into 150 ml of water and extracted several times with ethyl ether. The organic phase is then washed with normal sodium thiosulfate solution, dried over anhydrous magnesium sulfate and concentrated to obtain the expected compound in the form of an oil.

reactant | benzocyclobuten-1-ylmethyl para-toluenesulfonate | 6 g | C1(=CC=C(C=C1)S(=O)(=O)OCC1=CC2=C1C=CC=C2)C | C16H14O3S
reactant | sodium iodide | 6.2 g | [I-].[Na+]
reactant | water | 150 ml | O | H2O
solvent | acetone | 85 ml | CC(=O)C | C3H6O
product | 1-(Iodomethyl)benzocyclobutene | Yield: 88% | ICC1CC=2C1=CC=CC2 | C9H9I
